US08604034B2
4-{1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-5-oxo-2,3-dihydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-10a(10H)-yl}benzonitrile (37)
To generate the acid chloride, oxalyl chloride (70 μL, 0.83 mmol) and DMF (1 drop) were added to a suspension of 3-methyl-1,2-oxazole-4-carboxylic acid (50 mg, 0.40 mmol) in CH2Cl2 (0.5 mL) at 0° C. The suspension was allowed to stir for 15 min at 0° C., followed by 2 h at room temperature. The resulting solution was concentrated in vacuo to give a brown oil that was suspended in n-hexanes (2×1 mL) and concentrated in vacuo. To a chilled (ice bath) suspension of the acid chloride (generated as above; 0.40 mmol) in pyridine (0.5 mL) and CH2Cl2 (0.5 mL) was added 4-(5-oxo-2,3-dihydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-10a(10H)-yl)benzonitrile (22 mg, <79 μmol) in pyridine (0.5 mL). The brown reaction mixture was warmed to room temperature and stirred for a further 64 h. Saturated aqueous NaHCO3 (25 mL) was then added and the mixture extracted with CH2Cl2 (3×25 mL). The organic fractions were combined, dried (MgSO4) and concentrated in vacuo to yield a residue that was purified using flash chromatography (Biotage SP4 12 g cartridge; 0-10% MeOH gradient in CH2Cl2) to give a mixture of products containing the desired product. The mixture was further purified using flash chromatography (Biotage SP4, 12 g cartridge, C18 phase, 20-40% acetonitrile gradient in water) to give 4-{1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-5-oxo-2,3-dihydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-10a(10H)-yl}benzonitrile (37) as a white solid (13 mg, yield 42%).

reactant | oxalyl chloride | 0.83 mmol, 70 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methyl-1,2-oxazole-4-carboxylic acid | 0.40 mmol, 50 mg | CC1=NOC=C1C(=O)O | C5H5NO3
reactant | 4-(5-oxo-2,3-dihydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-10a(10H)-yl)benzonitrile | <79 μmol, 22 mg | O=C1C=2N(CC3(N1CCN3)C3=CC=C(C#N)C=C3)C=CC2 | C16H14N4O
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 4-{1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-5-oxo-2,3-dihydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-10a(10H)-yl}benzonitrile | CC1=NOC=C1C(=O)N1CCN2C1(CN1C(C2=O)=CC=C1)C1=CC=C(C#N)C=C1 | C21H17N5O3
